US05798316
By the method of Example 1, Step G, 49.16 grams (0.21 mole) of methyl 2-(2-formyl-4-ethylphenoxy)propionate, 2.04 grams (0.054 mole) of sodium borohydride, and 0.79 gram (0.0147 mole) of sodium methoxide were reacted in 100 mL of methanol, yielding 26.06 grams of methyl 2-(2-hydroxymethyl-4-ethylphenoxy)propionate. The NMR spectrum was consistent with the proposed spectrum.

reactant | methyl 2-(2-formyl-4-ethylphenoxy)propionate | 0.21 mole, 49.16 grams | C(=O)C1=C(OC(C(=O)OC)C)C=CC(=C1)CC | C13H16O4
reactant | sodium borohydride | 0.054 mole, 2.04 grams | [BH4-].[Na+]
reactant | sodium methoxide | 0.0147 mole, 0.79 gram | C[O-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | methyl 2-(2-hydroxymethyl-4-ethylphenoxy)propionate | 26.06 grams | OCC1=C(OC(C(=O)OC)C)C=CC(=C1)CC | C13H18O4
